US08350029B2
a) Preparation of 3-(3-chloropropoxy)-4-methoxy-6-nitrobenzoic acid
Methanol (4 lt), 3-(3-chloropropoxy)-4-methoxy-6-nitro benzaldehyde (560 gm) and 30% methanolic NaOH solution (5 ml) were heated to 45° C. To this reaction mass 35% of H2O2 solution (1200 ml) was added drop wise in 3-4 hours maintaining a pH of 10.5-11.5 with 30% methanolic NaOH solution. The reaction mass was quenched into ice water (10 kg) and the pH adjusted to 2.0-3.0 using hydrochloric acid. The solid obtained was filtered, washed with 50% aqueous methanol (500 ml) and dried at 45-50° C. to yield the title compound (510 gm, 86% yield).

reactant | 3-(3-chloropropoxy)-4-methoxy-6-nitro benzaldehyde | 560 gm | ClCCCOC=1C=C(C=O)C(=CC1OC)[N+](=O)[O-] | C11H12ClNO5
reactant | NaOH | 5 ml | [OH-].[Na+]
reactant | H2O2 | 1200 ml | OO | H2O2
solvent | Methanol | CO | CH4O
product | 3-(3-chloropropoxy)-4-methoxy-6-nitrobenzoic acid | 510 gm, 86% yield | ClCCCOC=1C=C(C(=O)O)C(=CC1OC)[N+](=O)[O-] | C11H12ClNO6
